US09428528B2
Step 3 Preparation of 2,2-Difluoro-1-((4S,5R)-4-fluoromethyl-2,2-dimethyl-5-{4-[6-(2,2,2-trifluoro-1-methylamino-ethyl)-pyridin-3-yl]-phenyl}-oxazolidin-3-yl)ethanone
To a stirred solution of [1-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl]-methyl-amine (0.075 g, 0.279 mmol) and 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (0.115 g, 0.279 mmol) in toluene:ethanol:water (3:3:3 mL) is added Na2CO3 (0.073 g, 0.697 mmol) at room temperature. Resulting reaction mixture is degassed with nitrogen for 30 minutes followed by addition of Pd(PPh3)4 (0.032 g, 0.028 mmol) and heated to 80° C. for 3 h. The reaction mixture is concentrated in vacuo then is diluted with water and extracted with ethyl acetate. Organic layer is dried over sodium sulphate and evaporated in vacuum. The crude material is purified by Combi-flash eluting in 20% ethyl acetate in hexane afford the title compound (0.120 g). 1H-NMR (400 MHz, DMSO) δ: 1.52 (s, 3H), 1.60 (s, 3H), 2.25 (d, J=5.76 Hz, 3H), 3.01-3.05 (m, 1H), 4.44-4.48 (m, 1H), 4.56-4.58 (m, 0.5H), 4.67-4.72 (m, 1H), 4.81-4.88 (m, 0.5H), 4.90-5.00 (m, 1H), 5.27 (d, J=3.68 Hz, 1H), 6.65 (t, J=52.36 Hz, 1H), 7.60 (d, J=8.24 Hz, 2H), 7.98-8.00 (dd, J1=2.04 Hz, J2=8.2 Hz, 1H), 8.06 (d, J=8.24 Hz, 1H), 8.15 (d, J=8.32, 2H), 8.73 (d, J=1.8 Hz, 1H). LC-MS (m/z): [M−H]=476.0.

reactant | [1-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl]-methyl-amine | 0.279 mmol, 0.075 g | BrC=1C=CC(=NC1)C(C(F)(F)F)NC | C8H8BrF3N2
reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 0.279 mmol, 0.115 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | Na2CO3 | 0.697 mmol, 0.073 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene ethanol water | 3 mL | C1(=CC=CC=C1)C.C(C)O.O
catalyst | Pd(PPh3)4 | 0.028 mmol, 0.032 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-Difluoro-1-((4S,5R)-4-fluoromethyl-2,2-dimethyl-5-{4-[6-(2,2,2-trifluoro-1-methylamino-ethyl)-pyridin-3-yl]-phenyl}-oxazolidin-3-yl)ethanone | 0.120 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C(C(F)(F)F)NC)(C)C)F | C22H23F6N3O2
